US04588732
Imidazo[1,5-a]pyridine-5-methyltriphenylphosphonium chloride (4.29 g), which is prepared from equimolar quantities of triphenylphosphine and 5-chloromethylimidazo[1,5-a]pyridine, is added to slurry of sodium hydride (0.5 g, 50% mineral oil dispersion) in 100 ml of dry tetrahydrofuran at 0° under nitrogen. After 1 hour at 0° a solution of p-hydroxybenzaldehyde (0.61 g) in 15 ml of dry tetrahydrofuran is added. The reaction is allowed to warm to room temperature, is then refluxed for 1 hour, cooled and acidified with dilute sulfuric acid. The aqueous layer is washed with ethyl acetate, adjusted to pH=7 with 50% sodium hydroxide and extracted with ethyl acetate. The organic phase is dried over sodium sulfate and evaporated to yield 5-[2-(p-hydroxyphenyl)-ethen-1-yl]-imidazo[1,5-a]pyridine.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-chloromethylimidazo[1,5-a]pyridine | ClCC1=CC=CC=2N1C=NC2 | C8H7ClN2
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | p-hydroxybenzaldehyde | 0.61 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 5-[2-(p-hydroxyphenyl)-ethen-1-yl]-imidazo[1,5-a]pyridine | OC1=CC=C(C=C1)C=CC1=CC=CC=2N1C=NC2 | C15H12N2O
